US05902803
A solution of 0.93 g of the ethyl ester of (4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-9-yl)acetic acid, 20 ml of methylamine as a 33% solution in ethanol and 20 ml of methanol under an argon atmosphere is stirred at a temperature in the region of 20° C. for 18 hours. The reaction mixture is filtered. The precipitate obtained is washed successively with three times 40 ml of ethanol and three times 40 ml of methyl-tert-butyl ether and dried under reduced pressure (15 mm Hg; 2 kPa) at 20° C. The solid obtained is suspended in a mixture of acetone (25 ml) and methanol (5 ml) and stirred for 15 minutes and then filtered, washed with 10 ml of acetone and dried under reduced pressure (1 mm Hg; 0.13 kPa) at 60° C. 0.32 g of N-methyl-2-(4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-9-yl)acetamide is obtained in the form of a white solid, the melting point of which is greater than 260° C (Analysis C16H14N4O2; % Calculated C: 65.30, H: 4.79, N: 19.04; % Found C: 65.00, H: 4.50, N: 18.80).

reactant | (4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-9-yl)acetic acid | O=C1C=2N(C3=C(N1)C=1C=CC=C(C1C3)CC(=O)O)C=CN2 | C15H11N3O3
reactant | methylamine | 20 ml | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
solvent | methanol | 20 ml | CO | CH4O
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | methanol | 5 ml | CO | CH4O
product | N-methyl-2-(4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-9-yl)acetamide | 0.32 g | CNC(CC=1C=2CC3=C(NC(C=4N3C=CN4)=O)C2C=CC1)=O | C16H14N4O2
